US08383644B2
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-pyridin-2-ylmethyl-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
The title compound (13 mg) was prepared from (S)-2-tert-butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester, which was deprotected according to General Procedure C, subjected to General Procedure V, then reprotected. Hydrolysis followed General Procedure B and the resulting acid and (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride were reacted according to General Procedures L and C. The amine was treated with 2-pyridinecarboxaldehyde, then hydrolyzed according to General Procedures D and B. LCMS (m/z): 830.

reactant | (S)-2-tert-butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)N)=O
reactant | 2-pyridinecarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-pyridin-2-ylmethyl-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 13 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)CC3=NC=CC=C3)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C47H42Cl2N4O6
